US08471005B2
[4-Chloro-3-((S)-1-pyrrolidin-2-ylmethoxy)-phenyl]-[7-(3-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine
This example was made by TFA deprotection of (S)-2-{2-Chloro-5-[7-(3-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenoxymethyl}-pyrrolidine-1-carboxylic acid tert-butyl ester as described in Example 1223. 1H-NMR (DMSO) δ 9.7 (s, 1H), 9.5 (brs, 1H), 9.0 (s, 1H), 8.7 (brs, 1H), 8.6 (s, 1H), 8.4 (d, J=8.0 Hz, 1H), 7.95 (d, J=8.0 Hz, 1H), 7.8 (t, 1H), 7.6 (d, J=8.7 Hz, 1H), 7.4 (m, 2H), 7.3 (d, J=4.7 Hz, 1H), 7.0 (d, J=4.7 Hz, 1H), 4.1 (m, 1H), 3.95 (m, 2H), 3.3 (s, 3H), 3.2 (m, 2H), 2.0 (m, 2H), 1.9 (m, 1H), 1.7 (m, 1H); LC/MS (ESI+): 498 (M+H).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (S)-2-{2-Chloro-5-[7-(3-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenoxymethyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=C(C=CC(=C1)NC1=NN2C(C=N1)=CC=C2C2=CC(=CC=C2)S(=O)(=O)C)Cl | C29H32ClN5O5S
product | [4-Chloro-3-((S)-1-pyrrolidin-2-ylmethoxy)-phenyl]-[7-(3-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | ClC1=C(C=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=CC(=CC=C2)S(=O)(=O)C)OC[C@H]2NCCC2 | C24H24ClN5O3S
